US05958375
c. 3-Nitro-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenylaminocarbonyl-[3'-nitro-5'-(1,3-dihydroxyprop-2-ylaminocarbonyl)benzene]
3-Nitro-5-methoxycarbonylphenylaminocarbonyl-(3'-nitro-5'-methoxycarbonylbenzene) (0.40 g, 1.0 mmol) and serinol (0.23 g, 2.5 mmol) were mixed and heated to 95° C. After 30 min, the pressure was reduced to 200 mm Hg and heating was continued for 3 h. The reaction mixture was purified by preparative HPLC. Yield: 0.27 g (52%).

reactant | 3-Nitro-5-methoxycarbonylphenylaminocarbonyl-(3'-nitro-5'-methoxycarbonylbenzene) | 1.0 mmol, 0.40 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)OC)NC(=O)C1=CC(=CC(=C1)C(=O)OC)[N+](=O)[O-] | C17H13N3O9
reactant | serinol | 2.5 mmol, 0.23 g | NC(CO)CO | C3H9NO2
product | 3-Nitro-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenylaminocarbonyl-[3'-nitro-5'-(1,3-dihydroxyprop-2-ylaminocarbonyl)benzene] | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC(CO)CO)NC(=O)C1=CC(=CC(=C1)C(=O)NC(CO)CO)[N+](=O)[O-] | C21H23N5O11
